US05112998
In 5 ml of toluene was dissolved 49.0 mg (0.1 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate, followed by addition of one drop of pyridine. Then, 0.1 ml (1.7 mmoles) of methyl isocyanate was added at a temperature of 0° C. and the mixture was stirred at a temperature of 60° C. for 30 minutes. The reaction mixture thus obtained was cooled to room temperature, poured in ice-water, and extracted 3 times with 20 ml portions of methylene chloride. The extracts are pooled, washed successively with water and aqueous sodium chloride solution, and dried over magnesium sulfate. The solvent was then distilled off under reduced pressure. Finally the residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=1:10, v/v) to recover 35 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-(N-methylcarbamoyloxy)pregn-5-en-3β-yl acetate (yield: 65%).

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate | 0.1 mmole, 49.0 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)O | C29H44O6
reactant | methyl isocyanate | 1.7 mmoles, 0.1 ml | CN=C=O | C2H3NO
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-(N-methylcarbamoyloxy)pregn-5-en-3β-yl acetate | 35 mg, yield: 65% | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)OC(NC)=O | C31H47NO7
